US07511047B2
1-{4-[2-(Diethylamino)ethoxy]phenyl}ethanone
A mixture of 4-bromoacetophenone (5 g, 25 mmol), the diethylaminoethanol (3.5 g, 38 mmol), K2CO3 (2 g), copper powder (0.5 g) and copper(I) iodide (2.5 g) in DMSO (30 ml) was heated at 120° C. until TLC showed consumption of the starting material. After cooling to RT, the mixture was poured onto aqueous NH3 (28%, 100 ml), extracted with CH2Cl2 (3×100 ml). The combined organic extracts were dried (Na2SO4), filtered and the CH2Cl2 distilled in vacuo. The crude product was purified by column chromatography on silica gel, eluting with EtOAc-MeOH (95:5) to furnish the pure compound (4.85 g, 82%).

reactant | 4-bromoacetophenone | 25 mmol, 5 g | CC(=O)C1=CC=C(C=C1)Br | C8H7BrO
reactant | diethylaminoethanol | 38 mmol, 3.5 g | CCN(CC)CCO | C6H15NO
reactant | K2CO3 | 2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
catalyst | copper | 0.5 g | [Cu] | Cu
catalyst | copper(I) iodide | 2.5 g | [Cu]I
product | 1-{4-[2-(Diethylamino)ethoxy]phenyl}ethanone | 4.85 g, 82% | C(C)N(CCOC1=CC=C(C=C1)C(C)=O)CC | C14H21NO2
